US09107916B2
methyl 2-[5-(benzyloxy)-1H-pyrazol-1-yl]pyridine-4-carboxylate
A solution of compound 2-(5-(benzyloxy)-1H-pyrazol-1-yl)isonicotinic acid (32 mg, 011 mmol, 1.0 eq.) in THF was added CH2N2 (˜10 eq.), the mixture was stirred for 30 min; the solvent was removed to obtain the desired product (25 mg). 1H NMR (400 MHz, CDCl3): δ 3.88 (3H, s), 5.18 (2H, s), 5.69 (1H, s), 7.28-7.39 (5H, m), 7.51 (1H, s), 7.69 (1H, d, J=4.4 Hz), 8.28 (1H, s), 8.65 (1H, s). [M+H] Calc'd for C17H15N3O3, 310. Found, 310.

reactant | 2-(5-(benzyloxy)-1H-pyrazol-1-yl)isonicotinic acid | 32 mg, 1.0 eq. | C(C1=CC=CC=C1)OC1=CC=NN1C=1C=C(C(=O)O)C=CN1 | C16H13N3O3
reactant | THF | C1CCOC1 | C4H8O
product | methyl 2-[5-(benzyloxy)-1H-pyrazol-1-yl]pyridine-4-carboxylate | 25 mg | C(C1=CC=CC=C1)OC1=CC=NN1C1=NC=CC(=C1)C(=O)OC | C17H15N3O3
